US08476300B2
2-bromothiophene-3-carboxamide
Add 2-bromothiophene-3-carbonyl chloride (540 mg, 2.39 mmol) to a solution of aqueous ammonia (25%, 3 mL, 17.44 mmol) with stirring. Stir the mixture for 30 minutes. Concentrate the mixture. Collect the resulting precipitate via filtration and wash the solids with water. Dry the white precipitate in vacuo to obtain the title compound (450 mg, 2.17 mmol).

reactant | 2-bromothiophene-3-carbonyl chloride | 2.39 mmol, 540 mg | BrC=1SC=CC1C(=O)Cl | C5H2BrClOS
reactant | ammonia | 17.44 mmol, 3 mL | N | H3N
product | 2-bromothiophene-3-carboxamide | 2.17 mmol, 450 mg | BrC=1SC=CC1C(=O)N | C5H4BrNOS
